US03946000
7-Amino-3-[S-(1,2,3-triazole-5-yl)-thiomethyl]3-cephem-4-carboxylic acid (4h)
Ten grams (0.075 mole) of 5-mercapto-1,2,3-triazole potassium salt was added to a stirred slurry of 19 g. (0.07 mole) of purified 7-aminocephalosporanic acid and 5.9 g. (0.07 mole) of NaHCO3 in 350 ml. of 0.1M phosphate buffer (pH 6.4) and the mixture heated and stirred at 55° C. for 31/2 hours under a nitrogen atmosphere. The resulting solution was cooled to 22° C. and the pH adjusted to 5.5 with 40% H3PO4. The resulting precipitate was filtered off, washed with cold water (50 ml.) and air dried. The yield of 7-amino-3-[S-(1,2,3-triazole-5-yl)thiomethyl]-3-cephem-4-carboxylic acid was 8 g., dec. pt. 230° C. IR analysis showed some decomposition of the β-lactam ring but it was used "as is" for the next step.

reactant | 5-mercapto-1,2,3-triazole potassium salt | 0.075 mole, Ten grams | [K].SC1=CN=NN1
reactant | 7-aminocephalosporanic acid | 0.07 mole | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | NaHCO3 | 0.07 mole | C(=O)(O)[O-].[Na+]
reactant | phosphate | 0.1M, pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | H3PO4 | OP(=O)(O)O | H3O4P
product | 7-Amino-3-[S-(1,2,3-triazole-5-yl)-thiomethyl]3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
